US06093696
N-Acetyl-D-thioproline-(O-benzyl)-L-tyrosine methyl ester
EDC (211 mg, 1.1 mmol) was added to a stirred solution of N-acetyl-D-thioproline (175 mg, 1 mmol), O-benzyl tyrosine methyl ester hydrochloride (322 mg, 1 mmol), HOBT (149 mg, 1.1 mmol) and NMM (242 μl, 2.2 mmol) in DCM (10 ml) at 0°. The mixture was stirred at room temperature overnight then diluted with DCM (100 ml). The DCM solution was washed with 1M hydrochloric acid (30 ml), saturated aqueous NaHCO3 (30 ml) and water (30 ml), dried (Na2SO4) and evaporated in vacuo. The residue was purified by chromatography (SiO2 ; ethyl acetate) to give the title compound as a white foam (417 mg, 94%); δH (DMSO-d6, 300K) (2 rotameric species observed) 8.55 (d. J 7.8 Hz) and 8.28 (3, J 8.1 Hz) together (1H, NHCO), 7.43-7.25 (5H, m, Ph), 7.14-7.08 (2H, m, ArH), 6.92-6.88 (2H, m, ArH), 5.06 (2H, s, CH2Ph), 4.79-4.66 (m) and 4.45-4.42 (m) and 4.21 (d, J 9.7 Hz) together (4H, CHα-tyr, CHα-thiopro and NCH2S), 3.62 (s) and 3.61 (s) together (3H, CO2Me), 3.28-2.71 (4H, m, CHCH2Ar+CHCH2S) and 2.04 (s) and 1.82 (s) togher (3H, CH3CO); m/z (ESI, 15V) 443 (M+ +1).

reactant | EDC | 1.1 mmol, 211 mg
reactant | N-acetyl-D-thioproline | 1 mmol, 175 mg | C(C)(=O)N1[C@@H](C(=O)O)CSC1 | C6H9NO3S
reactant | O-benzyl tyrosine methyl ester hydrochloride | 1 mmol, 322 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O
reactant | HOBT | 1.1 mmol, 149 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 2.2 mmol, 242 μl | CN1CCOCC1 | C5H11NO
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | N-Acetyl-D-thioproline (O-benzyl)-L-tyrosine methyl ester | 417 mg, 94% | C(C)(=O)N1[C@@H](C(=O)O)CSC1.COC([C@@H](N)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | InChI=1S/C17H19NO3.C6H9NO3S/c1-20-17(19)16(18)11-13-7-9-15(10-8-13)21-12-14-5-3-2-4-6-14;1-4(8)7-3-11-2-5(7)6(9)10/h2-10,16H,11-12,18H2,1H3;5H,2-3H2,1H3,(H,9,10)/t16-;5-/m01/s1
